US07709471B2
tert-butyl 4-[(4-amino-3-methoxy-benzoyl)amino]piperidine-1-carboxylate
To a solution of 4-amino-3-methoxybenzoic acid (Aldrich; 2.4 g, 14.36 mmol) in DMF (100 mL) was added 4-amino-1-bocpiperidine (Aldrich; 3.15 g, 15.72 mmol) and DIPEA (7.5 mL, 43.06 mmol). The resultant solution was carefully treated portionwise (2-3 portions) with HATU (6.88 g, 18.09 mmol) and the resultant mixture was stirred, under nitrogen, at ambient temperature overnight.

reactant | 4-amino-3-methoxybenzoic acid | 14.36 mmol, 2.4 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | 4-amino-1-bocpiperidine | 15.72 mmol, 3.15 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 43.06 mmol, 7.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 18.09 mmol, 6.88 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[(4-amino-3-methoxy-benzoyl)amino]piperidine-1-carboxylate | NC1=C(C=C(C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)OC | C18H27N3O4
